US04254116
5,5-Dimethyl-8-[5-(4-fluorophenyl)-2-pentyl]-10-hydroxy-5H-[1]benzopyrano[3,4-d]pyridine
A mixture of 4.75 g. of 5,5-dimethyl-8-[5-(4-fluorophenyl)-2-pentyl]-10-hydroxy-1,2,3,4-tetrahydro-5H-[1]benzopyrano[3,4-d]pyridine, 1.0 g. of 10% palladium on carbon, and 120 ml. of xylene was stirred and refluxed for 22 hours. After removal of the catalyst, the filtrate was evaporated in vacuo and the residue was purified by chromatography on a Florisil column (150 g.). The column was first eluted with chloroform, followed by 5% methanol in chloroform to give the pure product; m.p. 72°-74°.

reactant | 5,5-dimethyl-8-[5-(4-fluorophenyl)-2-pentyl]-10-hydroxy-1,2,3,4-tetrahydro-5H-[1]benzopyrano[3,4-d]pyridine | CC1(OC2=C(C(=CC(=C2)C(C)CCCC2=CC=C(C=C2)F)O)C2=C1CCNC2)C | C25H30FNO2
catalyst | palladium on carbon | [Pd] | Pd
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | 5,5-Dimethyl-8-[5-(4-fluorophenyl)-2-pentyl]-10-hydroxy-5H-[1]benzopyrano[3,4-d]pyridine | CC1(OC2=C(C(=CC(=C2)C(C)CCCC2=CC=C(C=C2)F)O)C=2C1=CC=NC2)C | C25H26FNO2
